US07648987B2
1-Bromo-3-isopropylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine
A bohdan block vessel was charged with propanethiol (0.010 g, 0.00014 mol) in DMF (1 mL, 0.01 mol) and the reaction mixture was degassed 3×. Sodium hydride was then added and the reaction mixture was stirred at rt for 10 min. 1,3-Dibromo-imidazo[1,5-a]pyrazin-8-ylamine (20 mg, 0.00007 mol) was added and the reaction mixture was heated at 70° C. for 4 h. The reaction mixture was concentrated in vacuo to give the title compound as a brown solid. 1H NMR (400 MHz, CD3OD-d4): δ=1.09 (d, J=6.82 Hz, 9H), 1.28 (d, 9H), 3.45-3.57 (m, 1H), 7.10 (d, J=5.05 Hz, 1H), 7.69 (d, J=5.05 Hz, 1H). MS(ES+): m/z 288.95 (100)[MH+]. HPLC: tR=2.13 min (Open Lynx polar—5 min).

reactant | propanethiol | 0.00014 mol, 0.010 g | C(CC)S | C3H8S
reactant | DMF | 0.01 mol, 1 mL | CN(C)C=O | C3H7NO
reactant | 1,3-Dibromo-imidazo[1,5-a]pyrazin-8-ylamine | 0.00007 mol, 20 mg | BrC=1N=C(N2C1C(=NC=C2)N)Br | C6H4Br2N4
product | 1-Bromo-3-isopropylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine | BrC=1N=C(N2C1C(=NC=C2)N)SC(C)C | C9H11BrN4S
